US04230705
Preparation of 8-isobutyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine
Following the general procedure of Example 4, 3-benzoyl-2-isobutyl-propionic acid is converted to 3-chloro-4-isobutylpyridazine which is treated with N-formylhydrazine to give the title compound.

reactant | 3-benzoyl-2-isobutyl-propionic acid | C(C1=CC=CC=C1)(=O)CC(C(=O)O)CC(C)C | C14H18O3
reactant | 3-chloro-4-isobutylpyridazine | ClC=1N=NC=CC1CC(C)C | C8H11ClN2
reactant | N-formylhydrazine | C(=O)NN | CH4N2O
product | 8-isobutyl-6-phenyl-1,2,4-triazolo[4,3-b]pyridazine | C(C(C)C)C=1C=2N(N=C(C1)C1=CC=CC=C1)C=NN2 | C15H16N4
